US05010195
Preparation of 5-Chloro-4-methoxy-2-methyl-6-hydrazinopyrimidine
4,5-Dichloro-6-methoxy-2-methylpyrimidine (21 g, 0.11 mol), 25 ml of hydrazine hydrate, and 25 ml of water were combined and heated to reflux for 25 min. The mixture was then cooled and extracted with methylene chloride. The extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The solid residue was extracted with hexane and dried to obtain 12.8 g (62 percent of theory) of the title compound as a fluffy white solid melting at 158° C.-159° C.

reactant | 4,5-Dichloro-6-methoxy-2-methylpyrimidine | 0.11 mol, 21 g | ClC1=NC(=NC(=C1Cl)OC)C | C6H6Cl2N2O
reactant | hydrazine hydrate | 25 ml | O.NN
solvent | water | 25 ml | O | H2O
product | 5-Chloro-4-methoxy-2-methyl-6-hydrazinopyrimidine | ClC=1C(=NC(=NC1NN)C)OC | C6H9ClN4O
